US06461844B1
Purification of GalNAc Kinase: Preparation of Crude Extract
Fresh pig kidneys from a local slaughter house were generally used in these studies, but kidney could be quick frozen and used at a later time with equally good results. The kidneys were cut into small pieces and homogenized in Buffer A (10 mM Tris-HCl buffer, pH 7.8, containing 1 mM β-mercaptoethanol, 1 mM EDTA, 1 mM PMSF, 10% glycerol) in a Waring blender for 3-4 minutes. The homogenate was centrifuged at 12,000×g for 50 minutes, and the supernatant liquid was filtered through 4 layers of cheesecloth and centrifuged at 100,000×g for 45 minutes. The supernatant liquid was used in subsequent purification steps.

reactant | Tris-HCl | 10 mM | C(C(CO)(CO)N)O.Cl
reactant | β-mercaptoethanol | 1 mM | SCCO | C2H6OS
reactant | EDTA | 1 mM | C(CN(CC(=O)O)CC(=O)O)N(CC(=O)O)CC(=O)O | C10H16N2O8
reactant | PMSF | 1 mM | C1=CC=C(C=C1)CS(=O)(=O)F | C7H7FO2S
solvent | glycerol | OCC(O)CO | C3H8O3
product | GalNAc | OC1[C@@H]([C@@H](O)[C@@H](O)[C@H](O1)CO)NC(=O)C | C8H15NO6
